US07220880B2
Methyl 3-(4-hydroxyphenyl)-2-methoxypropanoate (132 g, 0.631 mol) was dissolved in methanol (700 mL) and 5N sodium hydroxide (631 mL, 3.16 mol) was added dropwise at ambient temperature. The solution was stirred for 16 h at ambient temperature. The methanol was removed under vacuum, and water (500 mL) was added. The mixture was extracted with MTBE (2×500 mL). The aqueous solution was brought to pH=1 with concentrated HCl and then extracted with MTBE (2×500 nL). The organic extracts were dried (MgSO4), filtered, and concentrated under vacuum to give racemic 3-(4-hydroxyphenyl)-2-methoxypropanoic acid as an oil (110 g), which crystallized upon standing. 1H-NMR (DMSO): 7.0 (d, 2H); 6.6 (d, 2H); 4.0 (m, 1H); 2.8 (m, 2H); MS (ES−) m/z 195.1 (M−1).

reactant | Methyl 3-(4-hydroxyphenyl)-2-methoxypropanoate | 0.631 mol, 132 g | OC1=CC=C(C=C1)CC(C(=O)OC)OC | C11H14O4
reactant | sodium hydroxide | 3.16 mol, 5N, 631 mL | [OH-].[Na+]
solvent | methanol | 700 mL | CO | CH4O
product | racemic 3-(4-hydroxyphenyl)-2-methoxypropanoic acid | 110 g | OC1=CC=C(C=C1)CC(C(=O)O)OC | C10H12O4
